US09402397B2
A mixture of (4,5,6,7-tetrachlorobenzo[d][1,3]dioxol-2-yl)(thiophen-2-yl)methanone (1 g, 2.70 mmol) and phenyl hydrazine (880 mg, 8.13 mmol) in ethanol (14 mL) was heated under reflux for 30 minutes. The reaction mixture was then cooled in an ice bath. A solid precipitated, and the precipitate was collected by filtration and washed with hexane. Crude 2,2′-(1-(thiophen-2-yl)ethane-1,2-diylidene)bis(1-phenylhydrazine) was obtained as a brown solid (500 mg, 57.8% yield) and used in the next step without further purification.

reactant | (4,5,6,7-tetrachlorobenzo[d][1,3]dioxol-2-yl)(thiophen-2-yl)methanone | 2.70 mmol, 1 g | ClC1=C(C(=C(C=2OC(OC21)C(=O)C=2SC=CC2)Cl)Cl)Cl | C12H4Cl4O3S
reactant | phenyl hydrazine | 8.13 mmol, 880 mg | C1(=CC=CC=C1)NN | C6H8N2
solvent | ethanol | 14 mL | C(C)O | C2H6O
product | 2,2′-(1-(thiophen-2-yl)ethane-1,2-diylidene)bis(1-phenylhydrazine) | S1C(=CC=C1)C(C=NNC1=CC=CC=C1)=NNC1=CC=CC=C1 | C18H16N4S
